US08236806B2
1-(3,4-dichlorophenyl)-4-(3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 79)
125 mg (86%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (80 mg, 0.257 mmol), 1-(3,4-dichlorophenyl)piperazine (60 mg, 0.257 mmol), DIPEA (0.070 mL, 0.386 mmol) and NaBH(OAc)3 (163 mg, 0.771 mmol).

reactant | 3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.257 mmol, 80 mg | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15ClN2O
reactant | 1-(3,4-dichlorophenyl)piperazine | 0.257 mmol, 60 mg | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | DIPEA | 0.386 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.771 mmol, 163 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3,4-dichlorophenyl)-4-(3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C28H27Cl3N4
